US08686048B2
Intermediate 48: 2′,3-dichloro-5-fluoro-5′-methoxybiphenyl-4-amine
The title compound (39 mg) was prepared from 4-bromo-2-chloro-6-fluoroaniline (100 mg, 0.44 mmol) and 2-chloro-5-methoxyphenylboronic acid (106 mg, 0.62 mmol) as a pale-yellow solid.

reactant | 4-bromo-2-chloro-6-fluoroaniline | 0.44 mmol, 100 mg | BrC1=CC(=C(N)C(=C1)F)Cl | C6H4BrClFN
reactant | 2-chloro-5-methoxyphenylboronic acid | 0.62 mmol, 106 mg | ClC1=C(C=C(C=C1)OC)B(O)O | C7H8BClO3
product | 2′,3-dichloro-5-fluoro-5′-methoxybiphenyl-4-amine | 39 mg | ClC1=C(C=C(C=C1)OC)C1=CC(=C(C(=C1)F)N)Cl | C13H10Cl2FNO
